US04288436
A mixture of 7-[2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (870 mg.) and 99% formic acid (16 ml.) was stirred for 3.5 hours at ambient temperature. The solvent was distilled off and to the residue was added diethyl ether (20 ml.). Insoluble material was collected by filtration and dissolved in 5% sodium bicarbonate aqueous solution (20 ml.) The aqueous solution was washed with ethyl acetate (20 ml.) and to the resulting aqueous solution was added ethyl acetate (60 ml.). The mixture was adjusted to pH 2.0 with 10% hydrochloric acid with stirring to precipitate powder. The precipitates were collected by filtration, well stirred in ethyl acetate (50 ml.) to remove impurities and collected by filtration to give 7-[2-(2-amino-1,3-thiazol-4-yl)glyoxylamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (240 mg.). The aqueous layer in the filtrate of pH 2.0 as mentioned above was separated and allowed to stand overnight. Precipitates were collected by filtration further to give the same object compound (120 mg.). Total yield 360 mg.

reactant | 7-[2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 870 mg | C(C)(C)(CC)OC(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O)=O | C22H24N8O9S3
solvent | formic acid | 16 ml | C(=O)O | CH2O2
product | 7-[2-(2-amino-1,3-thiazol-4-yl)glyoxylamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 240 mg | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O)=O | C16H14N8O7S3
